US07625938B2
A solution of ethyl (3,5-dichlorobenzoyl)acetate (3.0 g, 11.5 mmol) and {1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinium chloride (2.55 g, 10.4 mmol) was refluxed in HOAc (80 ml) for 4 hr. The solvent was removed under reduced pressure, and the residue taken up with ethyl acetate, washed with sat. NaHCO3 2×, brine, and dried over Na2SO4. Flash column chromatography (SiO2, 0-5% ethyl acetate in DCM gradient) gave ethyl 4-{1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoate as a white solid. TLC (5% ethyl acetate-DCM) Rf 0.43. NMR (500 MHz, CDCl3) δ: 1.38 (t, J=7.1 Hz, 3H); 1.78 (d, J=7.0 Hz, 3H); 3.55 (d, J=22.6 Hz, 1H); 3.60 (d, J=22.6 Hz, 1H); 4.36 (q, J=7.1 Hz, 2H); 5.57 (q, J=7.0 Hz, 1H); 7.39 (t, J=1.9 Hz, 1H); 7.50 (d, J=8.4 Hz, 2H). 7.52 (d, J=1.9 Hz, 2H); 8.02 (d, J=8.4 Hz, 2H). MS C20H18Cl2N2O3 Cald: 404.07; Obsd (M+1): 405.20.

reactant | ethyl (3,5-dichlorobenzoyl)acetate | 11.5 mmol, 3.0 g | ClC=1C=C(C(=O)CC(=O)OCC)C=C(C1)Cl | C11H10Cl2O3
reactant | {1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinium chloride | 10.4 mmol, 2.55 g | [Cl-].C(C)OC(=O)C1=CC=C(C=C1)C(C)[NH2+]N
solvent | HOAc | 80 ml | CC(=O)O | C2H4O2
product | ethyl 4-{1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoate | ClC=1C=C(C=C(C1)Cl)C1=NN(C(C1)=O)C(C)C1=CC=C(C(=O)OCC)C=C1 | C20H18Cl2N2O3
